US08975400B2
E2: 7-((3,5-difluoro-4-((6-(trifluoromethyl)pyridin-3-yl)oxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
The title compound was prepared by a procedure similar to those described for E1 starting from 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one and (3,5-difluoro-4-((6-(trifluoromethyl)pyridin-3-yl)oxy)phenyl)methanol.

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | (3,5-difluoro-4-((6-(trifluoromethyl)pyridin-3-yl)oxy)phenyl)methanol | FC=1C=C(C=C(C1OC=1C=NC(=CC1)C(F)(F)F)F)CO | C13H8F5NO2
product | 7-((3,5-difluoro-4-((6-(trifluoromethyl)pyridin-3-yl)oxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=C(C1OC=1C=NC(=CC1)C(F)(F)F)F | C20H15F5N4O3
